US06211215B1
In substantially the same manner as in Reference Example 47, 5-ethyl-2-thiophenecarboxamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(5-ethyl-2-thienyl)oxazole. The yield was 54%.

reactant | 5-ethyl-2-thiophenecarboxamide | C(C)C1=CC=C(S1)C(=O)N | C7H9NOS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(5-ethyl-2-thienyl)oxazole | yield was 54% | ClCC=1N=C(OC1)C=1SC(=CC1)CC | C10H10ClNOS
